US03950353
N-Methyl-N'-[2-(3-isothiazolylamino)ethyl]urea
N-(3-Isothiazolylmethyl)ethylenediamine, prepared by reacting ethylenediamine with 3-bromomethylisothiazole by the procedure of Example 40(a), is reacted with methyl isocyanate by the procedure of Example 24 to give, after concentrating and separating by column chromatography, the title compound.

reactant | N-(3-Isothiazolylmethyl)ethylenediamine | S1N=C(C=C1)CNCCN | C6H11N3S
reactant | ethylenediamine | C(CN)N | C2H8N2
reactant | 3-bromomethylisothiazole | BrCC1=NSC=C1 | C4H4BrNS
reactant | methyl isocyanate | CN=C=O | C2H3NO
product | N-Methyl-N'-[2-(3-isothiazolylamino)ethyl]urea | CNC(=O)NCCNC1=NSC=C1 | C7H12N4OS
